US07060710B2
a) 5-Methoxy-2-(5-methyl-3-phenylisoxazol-4-ylmethylene)indan-1-one
5-Methoxy-1-indanone (1 g, 6.2 mmol) and 3-phenyl-5-methyl-4-isoxazolecarbaldehyde (1.14 g, 6.2 mmol) were dissolved in EtOH (30 ml) and NaOH(4 drops of a 4M solution in water) was added. The reaction mixture was heated to reflux for 17 h. The reaction mixture was cooled and filtered to obtain the title compound as a yellow solid (1.0 g, 49%).

reactant | 5-Methoxy-1-indanone | 6.2 mmol, 1 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | 3-phenyl-5-methyl-4-isoxazolecarbaldehyde | 6.2 mmol, 1.14 g | C1(=CC=CC=C1)C1=NOC(=C1C=O)C | C11H9NO2
reactant | NaOH | [OH-].[Na+]
solvent | EtOH | 30 ml | CCO | C2H6O
solvent | water | O | H2O
product | 5-Methoxy-2-(5-methyl-3-phenylisoxazol-4-ylmethylene)indan-1-one | 1.0 g, 49% | COC=1C=C2CC(C(C2=CC1)=O)=CC=1C(=NOC1C)C1=CC=CC=C1 | C21H17NO3
